US07795288B2
[2-(4-Isothiocyanato-phenoxy)-ethyl]-dimethyl-amine
The title compound is prepared as described in Example 1 for 1-[2-(4-isothiocyanato-phenoxy)-ethyl]-pyrrolidine but using 4-(2-dimethylamino-ethoxy)-phenylamine. Title compound: ES-MS: 223.0 [M+H]+; single peak at tR=6.52 min (System 1).

reactant | 1-[2-(4-isothiocyanato-phenoxy)-ethyl]-pyrrolidine | N(=C=S)C1=CC=C(OCCN2CCCC2)C=C1 | C13H16N2OS
reactant | 4-(2-dimethylamino-ethoxy)-phenylamine | CN(CCOC1=CC=C(C=C1)N)C | C10H16N2O
product | [2-(4-Isothiocyanato-phenoxy)-ethyl]-dimethyl-amine | N(=C=S)C1=CC=C(OCCN(C)C)C=C1 | C11H14N2OS
